US07786155B2
3-[2-(4-Amino-phenyl)-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one (56 mg, 0.15 mmol) is dissolved in 10 mL methylene chloride and 2-ethyl-butyric acid (18 mg, 0.15 mmol), bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (113 mg, 0.24 mmol) and ethyl diisopropyl amine (42 uL, 0.24 mmol) are added. The mixture is stirred and heated to 50° C. for 5 hours. Subsequently water and methylene chloride are added the organic phase is separated, dried and evaporated. The residue is purified by preparative HPLC (Method 1) to yield 2-ethyl-N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-ethyl]-phenyl}-butyramide (25 mg, 35%). LC/MS at 254 nm; [M+H] 468; Rt 3.351.

reactant | 3-[2-(4-Amino-phenyl)-ethyl]-2-methyl-5,5-diphenyl-3,5-dihydro-imidazol-4-one | 0.15 mmol, 56 mg | NC1=CC=C(C=C1)CCN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H23N3O
reactant | 2-ethyl-butyric acid | 0.15 mmol, 18 mg | C(C)C(C(=O)O)CC | C6H12O2
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.24 mmol, 113 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | ethyl diisopropyl amine | 0.24 mmol, 42 uL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-ethyl-N-{4-[2-(2-methyl-5-oxo-4,4-diphenyl-4,5-dihydro-imidazol-1-yl)-ethyl]-phenyl}-butyramide | 25 mg, 35% | C(C)C(C(=O)NC1=CC=C(C=C1)CCN1C(=NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)CC | C30H33N3O2
